US06005116
(a) 3-(2-(N-tert-Butoxycarbonylamino)ethoxy)-5-(4-phenoxyphenyl)isoxazole
3-Hydroxy-5-(4-phenoxyphenyl)isoxazole (0.2 g) and 2-(N-tert-butoxycarbonylamino)ethanol (0.14 g) were subjected to reaction and post-treatment in a similar manner to that described in Example 9(a) to obtain the title compound (0.23 g, 74%) as a colorless powder.

reactant | 3-Hydroxy-5-(4-phenoxyphenyl)isoxazole | 0.2 g | OC1=NOC(=C1)C1=CC=C(C=C1)OC1=CC=CC=C1 | C15H11NO3
reactant | 2-(N-tert-butoxycarbonylamino)ethanol | 0.14 g | C(C)(C)(C)OC(=O)NCCO | C7H15NO3
product | 3-(2-(N-tert-Butoxycarbonylamino)ethoxy)-5-(4-phenoxyphenyl)isoxazole | 0.23 g, 74% | C(C)(C)(C)OC(=O)NCCOC1=NOC(=C1)C1=CC=C(C=C1)OC1=CC=CC=C1 | C22H24N2O5
